US06858638B2
N-(3-Chloro-1H-indazol-5-yl)-3-fluorobenzenesulfonamide can be obtained as described in Example 1 from 0.18 g of 5-amino-3-chloro-1H-indazole, 20 ml of tetrahydrofuran, 0.25 ml of triethylamine and 0.23 g of 3-fluorobenzenesulfonyl chloride. 0.13 g of N-(3-chloro-1H-indazol-5-yl)-3-fluorobenzenesulfonamide is thus obtained in the form of a yellow foam which decomposes at approximately 80° C. (analysis C13H9ClFN3O2S % calculated: 47.93; H, 2.78; Cl, 10.88; F, 5.83; N, 12.90; O, 9.82; S, 9.84. % found C, 48.11; H, 2.64; F, 5.14; N, 13.14; S, 8.22).

reactant | 5-amino-3-chloro-1H-indazole | 0.18 g | NC=1C=C2C(=NNC2=CC1)Cl | C7H6ClN3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 3-fluorobenzenesulfonyl chloride | 0.23 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
product | N-(3-chloro-1H-indazol-5-yl)-3-fluorobenzenesulfonamide | 0.13 g | ClC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=CC(=CC=C1)F | C13H9ClFN3O2S
